US07034039B2
A solution of 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]propionic acid (0.78 g, 1.5 mmol), diphenylphosphoryl azide (0.39 ml, 1.8 mmol) and triethylamine (0.25 ml, 1.8 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (20 ml) and the mixture was refluxed with stirring. To the obtained mixture was added methanol (1 ml) and the mixture was refluxed with stirring for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-diisopropyl ether to give methyl 2-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]ethylcarbamate (0.30 g, 36.6%) as crystals.

reactant | 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]propionic acid | 1.5 mmol, 0.78 g | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCC(=O)O)CN1C(C2=CC=CC=C2C1=O)=O | C25H22Cl2N2O6
reactant | diphenylphosphoryl azide | 1.8 mmol, 0.39 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 2-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]ethylcarbamate | 0.30 g, 36.6% | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCNC(OC)=O)CN1C(C2=CC=CC=C2C1=O)=O | C26H25Cl2N3O6
